US09388161B2
Step 2. (S)-methyl 5-cyclobutoxy-6-(2-(3-methoxyazetidin-3-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate
Trifluoroacetic acid (1 mL) was added to a solution of (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-methoxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.070 g, 0.13 mmol) in dichloromethane (3 mL), and the resulting solution stirred for 2 h at room temperature. The reaction mixture was concentrated under vacuum, and the residue was purified by preparative-HPLC with the following conditions (Waters I): Column, Xbridge C18, 5 um, 19×150 nm; Mobile phase water (0.05% ammonium bicarbonate) and acetonitrile (25% to 65% acetonitrile in 10 min; flow rate: 20 mL/min); Detector, 220&254 nm. This afforded (S)-methyl 5-cyclobutoxy-6-(2-(3-methoxyazetidin-3-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.037 g, 65%) as an off-white solid. 1H NMR (400 MHz, CD3OD) 1.20 (d, J=6.80 Hz, 3H), 1.25-65 (m, 3H), 1.95-2.20 (m, 4H), 2.20-2.31 (m, 1H), 2.45-2.55 (m, 1H), 2.90-3.01 (m, 1H), 3.30 (s, 3H), 3.80 (s, 3H), 3.92-3.98 (m, 2H), 4.10-4.22 (m, 3H), 4.55-4.62 (m, 1H), 7.36 (d, J=8.40 Hz, 1H), 7.82 (d, J=8.40 Hz, 1H), 7.95 (s, 1H). MS (ESI, pos. ion) m/z 444 [M+H]+.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-methyl 6-(2-(1-(tert-butoxycarbonyl)-3-methoxyazetidin-3-yl)thiazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.13 mmol, 0.070 g | C(C)(C)(C)OC(=O)N1CC(C1)(OC)C=1SC=C(N1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C28H37N3O6S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (S)-methyl 5-cyclobutoxy-6-(2-(3-methoxyazetidin-3-yl)thiazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1N=C(SC1)C1(CNC1)OC)C(=O)OC)C | C23H29N3O4S
